US06919337B2
A suspension of the product of Example 68, 8-(6,7-dimethoxy-isoquinolin4-ylmethyl)-3-(3-hydroxy-2-methyl-propyl)-1-methyl-3,7-dihydro-purine-2,6-dione (63 mg, 0.14 mmol) and acetyl chloride (18 ml, 0.25 mmol) in pyridine (1 ml) is heated at 50° C. for 18 hours. After evaporation, flash chromatography (19:1 dichloromethane-methanol elution) affords acetic acid 3-[8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-1-methyl-2,6-dioxo-1,2,6,7-tetrahydro-purin-3-yl]-2-methyl-propyl ester, [MH]+ 482.

reactant | 8-(6,7-dimethoxy-isoquinolin4-ylmethyl)-3-(3-hydroxy-2-methyl-propyl)-1-methyl-3,7-dihydro-purine-2,6-dione | 0.14 mmol, 63 mg | COC=1C=C2C(=CN=CC2=CC1OC)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(CO)C | C22H25N5O5
reactant | acetyl chloride | 0.25 mmol, 18 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | acetic acid 3-[8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-1-methyl-2,6-dioxo-1,2,6,7-tetrahydro-purin-3-yl]-2-methyl-propyl ester | COC=1C=C2C(=CN=CC2=CC1OC)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(COC(C)=O)C | C24H27N5O6
